Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My doctor was worried about me"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
In short, ___ yo man with hx suggestive for schizo-affective
disorder who was BIBA on ___ issued by outpt psychiatrist
(Dr. ___, ___ ___ concern of mania.

Mr. ___ reported: "I am fine"..."I feel they want to screw me
over". Mr. ___ explained that he meant clinicians who sent him to
the ED.

Mr. ___ didn't see any reason why he was admitted. He acknowledged
that he has been receiving treatment at ___. He said he was
diagnosed with "Schizoaffective disorder".  Re. treatment, he
reported: "It was a court ordered thing".
When asked about complains, he said:"I don't have any money". He
admits to feel "a little bit depressed" (placed mood at level 5
on scale 0-the worst to 10-the happiest). He also reported about
increased level of anxiety ___ on scale from 0-none to 10-the
worst anxiety). He explained that he is worried about his job at
___. On further psychiatric ROS, he reported decreased
sense of enjoyment. He denied fatigue. Denied S/I at the 
present.
He said that "God keeps (him) safe". He claims that his sleep 
was
"fine". Denies any fatigue.  Pt denied experiencing A/V/H at
present. He admits hx of short lived AH (e.g., his name being
called).
Overall, Mr. ___ was minimizing issues: he denied manic sx's. He
agreed that he is writing a book and that he was burning sage. 
He
said that he believes in "Wicca" since age ___ (pagan
religion). He denied belonging to any community or religious
group.
Per collateral, pt presented to the ___ clinic w sx's 
concerning
for mania on ___: 5 day decrease of sleep, grandiose ideas
(writing a book and becoming rich), disruptive behaviors in the
group home (knocking on the peers' doors in early mornings),
burning sage being religiously preoccupied.

I spoke w ___ (___): PREP team observed mania
behaviors w grandiosity, disorganized behaviors. They have been
concerned about pt's self care. Historically, pt was abusing 
EtOH
and cough sirup when manic. Also, there was concern of rapid
switch into depression. Pt has hx of suicide attempt by OD on
Tylenol ___ yrs ago when depressed.

 
Past Medical History:
reports feeling healthy. Clearly denied any hx of severe TBI
w LOC, denied hx of SZs. He reports that his new PCP is ___ at the ___, seen about a week ago.
on medical ROS, denies pain/N/V/D/C/fever/chills. Reports good
appetite. Stable wt.

 
Social History:
___
Family History:
___ yr older brother ___ suicide on ___ (didn't
obtain details as pt was appearing upset talking about that). Pt
shared that he was close to his brother.

 
Physical Exam:
GENERAL
 -HEENT: 
     -Normocephalic, atraumatic
     -Moist mucous membranes, oropharynx clear, supple neck
     -No scleral icterus
 -Cardiovascular: 
     -Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops           
     -Distal pulses ___ throughout
 -Pulmonary: 
     -No increased work of breathing
     -Lungs clear to auscultation bilaterally
     -No wheezes/rhonchi/rales
 -Abdominal: 
     -Non-distended, bowel sounds normoactive
     -No tenderness to palpation in all quadrants
     -No guarding, no rebound tenderness
 -Extremities: 
     -Warm and well-perfused
     -No edema of the limbs
 -Skin: 
     -No rashes or lesions noted

NEUROLOGICAL
 -Cranial Nerves:
     -I: Olfaction not tested
     -II: PERRL 3 to 2 mm, both directly and consentually; brisk
bilaterally, VFF to confrontation
     -III, IV, VI: EOMI without nystagmus
     -V: Facial sensation intact to light touch in all
distributions
     -VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
     -VIII: Hearing intact to finger rub bilaterally
     -IX, X: Palate elevates symmetrically
     -XI: ___ strength in trapezii and SCM bilaterally
     -XII: Tongue protrudes in midline
 -Motor: 
     -Normal bulk and tone bilaterally
     -No abnormal movements, no tremor
     -Strength ___ throughout
 -Sensory: 
     -No deficits to fine touch throughout
 -DTRs: 
     -2 and symmetrical throughout
 -Coordination: 
     -Normal on finger to nose test, no intention tremor noted
 -Gait: 
     -Good initiation
     -Narrow-based, normal stride and arm swing
     -Able to walk in tandem without difficulty
     -___ absent

COGNITION 
 -Wakefulness/alertness: 
     -Awake and alert
 -Attention: 
     -MOYb with 0 errors
 -Orientation: 
     -Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): 
     -Not tested
 -Memory: 
     -___ registration
     -___ spontaneous recall after 5 min
     -Long-term grossly intact
 -Fund of knowledge: 
     -Consistent with education
     -Intact to last 3 presidents
 -Calculations: 
     -$1.75 = 7 quarters
 -Abstraction: 
     -orange/apple: fruit
     -airplane/train: things you use to get to places
 -Visuospatial: 
     -Not assessed
 -Language: 
     -Native ___ speaker, no paraphasic errors, appropriate
to conversation

MENTAL STATUS
 -Appearance: 
     -___ yo Caucasian man appearing stated age, long hair tied
into a bun, medium build and stature, nails painted with 
lavender
colored ___, appears well hydrated and nourished, in no
apparent distress
 -Behavior: 
     -Sitting up in seat, appropriate eye contact, no 
psychomotor
agitation or retardation
 -Attitude: 
     -Cooperative, engaged, friendly
 -Mood: 
     -"Okay"
 -Affect: 
     -Mood-congruent, constricted range, somewhat appropriately
reactive
 -Speech: 
     -Slow rate, slight response latency, quiet volume, normal
prosody
 -Thought process: 
     -Linear, coherent, goal-oriented, no loose associations
 -Thought Content:
     -Safety: Denies SI/HI   
     -Delusions: No evidence of paranoia, etc. 
     -Obsessions/Compulsions: No evidence based on current
encounter
     -Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
 -Insight: 
     -Limited
 -Judgment: 
     -Limited

 
Pertinent Results:
___ 04:42PM   WBC-8.6 RBC-4.87 HGB-15.2 HCT-43.4 MCV-89 
MCH-31.2 MCHC-35.0 RDW-12.3 RDWSD-40.2
  RENAL & GLUCOSE Glucose UreaN Creat Na    K   Cl HCO3 AnGap 
___ 06:35    ___ 4.5   ___
LIPID/CHOLESTEROL Cholest Triglyc HDL CHOL/HD LDLcalc 
___ 06:35    150     119    34*  4.4    92
          PITUITARY TSH 
___ 06:35    0.52 

 OTHER ENDOCRINE   25VitD 
___ 06:35    28*___. LEGAL & SAFETY:  
On admission, the patient the patient refused to sign a 
conditional voluntary agreement and was admitted on a ___, which expired on ___.  At that time the patient was not 
deemed to be at risk of harm to self/others, so the patient was 
discharged.  He was also placed on q5 minute checks status on 
admission. He had good behavioral control throughout admission, 
and was advanced to q15 minute checks prior to discharge.

2. PSYCHIATRIC:
Patient was admitted after his outpatient providers were 
concerned for mania given reduced sleep, grandiosity, and 
disorganized behavior. On admission, patient appeared to be 
guarded and minimized symptoms. He denied any manic symptoms, 
although did admit that he is writing a book and burning sage. 
Consistently denied any thoughts of hurting himself or others. 
After discussion with the patient's outpatient psychiatrist, Dr. 
___ patient's ___ Sustenna was increased to 234 
mg. The team discussed this with the patient, who was in 
agreement. The patient was visited on the unit over the weekend 
by his father, who noted to staff that patient appeared at his 
baseline. The patient was in good behavioral control throughout 
hospitalization and did not require restraint or seclusion. The 
team had a family meeting with the patient and patient's mother 
(via phone) prior to discharge. Patient's mother stated that she 
did not feel that the patient is currently at risk for harming 
himself or others. She was in agreement with the discharge plan. 
The team also spoke with the patient's father, who was in 
agreement with discharge. Initially, the patient was hesitant to 
follow up with the PREP program, as he was upset by his 
hospitalization. After discussion with the team and his mother, 
however, the patient agreed to attend an appointment at PREP the 
day following discharge. 

3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder
Patient reported smoking marijuana a couple of times per week. 
Patient had little insight into 

#) Alcohol use
Patient reported a history of heavy drinking and black outs, 
although states that he now drinks twice/week. Patient's mother 
expressed concern about patient's history with alcohol, although 
patient minimized this issue. Recommend that patient continues 
to discuss this with his outpatient providers. 

# Tobacco use disorder
Patient reported smoking 1 ppd. A nicotine patch was offered to 
patient. 

4. MEDICAL
Patient did not have any acute medical issues during admission. 
Patient's vitamin D was noted to be low (28), however patient 
declined a supplement. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient was noted to decline groups. He was noted to be visible 
but kept to himself in the milieu. Upon approach, he was polite 
and cooperative. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
With patient's permission, the team discussed the patient's 
hospitalization, treatment, and discharge plans with the 
patient's mother and father. The patient's mother and father 
agreed that he is not acutely at risk of harming himself or 
others and were in agreement with the discharge plan. 

#) INTERVENTIONS
- Medications: Patient given ___ Sustenna 234 mg IM on 
___. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient to follow up with PREP on 
___.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting ___ Sustenna, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself due to disorganization and 
impulsivity.  Their static factors noted at that time include 
history of suicide attempt, history of chronic mental illness, 
history of substance abuse, male gender, Caucasian race. During 
admission, the patient received a higher dose of ___ 
Sustenna, as patient was noted to become more symptomatic when 
nearing his next dose. The team also extensively discussed with 
the patient the importance of close outpatient follow up, which 
the patient agreed to. Finally, the patient is being discharged 
with many protective risk factors, including future oriented 
viewpoint with plans to go back to work at ___, 
presence of close outpatient follow-up, lack of suicidal 
ideation, and good social support.  Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PALIperidone Palmitate 117 mg IM Frequency is Unknown 
psychosis 

 
Discharge Medications:
Paliperidone 234 IM given ___. Plan to be given once a month.
 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Schizoaffective disorder, bipolar type

 
Discharge Condition:
 *Appearance: Appropriately groomed. Wearing clean, casual 
clothing. 
  Behavior: calm, cooperative, fair eye contact
  *Mood and Affect: 'fine' / euthymic 
  *Thought process: Linear, coherent, without loose 
associations.
  *Thought Content: No apparent obsessions or compulsions. No
apparent internal stimuli or audiovisual hallucination. Denies 
SI/HI. He reported about positive plans for future. He would 
like to continue to work at ___. He said he will 
follow up with PREP program.
  *Judgment and Insight: fair/fair

  Cognition:
    *Attention, *orientation, and executive function:
Appropriately awake, alert, oriented, and attentive. 
    *Memory: short and long term appear grossly intact. 
    *Fund of knowledge: Appropriate for education.
    *Speech: regular rate, rhythm, tone, prosody 
    *Language: Fluent ___, Native speaker, w/o paraphasic 
error.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___